US04709032
In 20 ml of a chloroform solution containing 2.23 g of 2-benzyloxycarbonylamino-1-methylethylamine and 1.2 g of triethylamine was added dropwise 20 ml of a chloroform solution containing 1.80 g of 5-isoquinolinesulfonyl chloride under cooling with ice. After the dropwise addition of the chloroform solution, the mixed solution was stirred at a temperature of 20° C. to 25° C. for two hours, and the reaction mixture solution was washed with water and dried with anhydrous magnesium sulfate. The chloroform was distilled therefrom under reduced pressure. The crystalline residue thus obtained was recrystallized from ethanol to give 2.68 g of N-(2-benzyloxycarbonylamino-1-methylethyl)-5-isoquinolinesulfonamide in a yield of 85%.

reactant | 2-benzyloxycarbonylamino-1-methylethylamine | 2.23 g | C(C1=CC=CC=C1)OC(=O)NCC(C)N | C11H16N2O2
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | 5-isoquinolinesulfonyl chloride | 1.80 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-benzyloxycarbonylamino-1-methylethyl)-5-isoquinolinesulfonamide | 2.68 g, yield of 85% | C(C1=CC=CC=C1)OC(=O)NCC(C)NS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C20H21N3O4S
